US06699527B1
4-([N-Ethyl-N-phenyl-2-aminoethyl]oxymethyl)benzophenone
2-(N-Ethylanilino)ethanol (3.03 g, 18.4 mmol, 1.2 eq) in THF (20 cm3) was treated with NaH (60% dispersion in oil, 524 mg, 13,1 mmol, 1.4 eq) and stirred at 20° C. for 1 hour. 4-Bromomethylbenzophenone (4.21 g, 15.3 mmol) was then added and stirring continued for 72 hours. Excess solvent was removed in vacuo and the residue diluted with DCM, washed with water and NaHCO3 solution (sat.), dried (MgSO4) and solvent removed under vacuum. The resulting oil was purified by flash chromatography, eluting with petroleum (bp 40-60° C.):EtOAc (9:1), to give the desired product as a yellow oil (4.36 g, 80%), Rf=0.54 (4:1, petrol:EtOAc) (Found: C, 78.34; H, 6.86; N, 5.29. C24H25NO2 requires C, 80.19; H, 7.01; N, 3.90%); νmax (film/cm−1 1658 (s), 1598 (s), 1506 (s); δH (200 MHz; CDCl3) 1.22 (3H, t, J 7, CH3), 3.49 (2H, q, J 7, CH2CH3), 3.58-3.79 (4H, m, OCH2CH2N), 4.66 (2H, s, ArCH2O), 6.69-6.79 (3H, m, ArH o- and p- to NR2), 7.28 (2H, dd, J 7, 7, ArH m- to NR2), 7.46-7.68 (5H, m, ArH), 7.80-7.88 (4H, m, ArH o- to C═O), δC (50.3 MHz; CDCl3) 12.2 (CH3), 45.5 (NCH2CH3), 50.1 (NCH2CH2O), 68.5 (NCH2CH2O), 72.2 (ArCH2O), 111.8 (ArCH o- to NR2), 115.8 (ArCH p- to NR2), 127.0, 128.3, 129.3, 130.0 and 130.3 (ArCH o- and m- to C═O and ArCH m- to NR2), 132.4 (ArCH p- to C═O), 136.8 and 137.7 (4° ArCC═O), 143.2 (4° ArCCH2O), 147.7 (4° ArCNR2), 196.4 (C═O); m/z (APCI+) 360 ([M+H]+, 30%); HRMS C24H26O2N requires 360.1963; found 360.1963.

reactant | 2-(N-Ethylanilino)ethanol | 18.4 mmol, 3.03 g, 1.2 eq | C(C)N(C1=CC=CC=C1)CCO | C10H15NO
reactant | NaH | 13,1 mmol, 524 mg, 1.4 eq | [H-].[Na+]
reactant | 4-Bromomethylbenzophenone | 15.3 mmol, 4.21 g | BrCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11BrO
solvent | THF | 20 cm3 | C1CCOC1 | C4H8O
product | 4-([N-Ethyl-N-phenyl-2-aminoethyl]oxymethyl)benzophenone | 4.36 g, 80% | C(C)N(CCOCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1)C1=CC=CC=C1 | C24H25NO2
